US08975415B2
A solution of potassium tert-butoxide (441 mg, 3.93 mmol) in THF (5 mL) was added to a suspension of 6-bromospiro[chromene-2,1′-cyclobutan]-4(3H)-one (500 mg, 1.87 mmol) and 1H-benzotriazole-1-methanol (586 mg, 3.93 mmol) in THF (5 mL) over 10 minutes in a dry ice-acetone bath under an argon atmosphere. The mixture was stirred for 0.5 hours in an ice bath, and then diluted with EtOAc (10 mL). After stirring for 0.5 hours, the mixture was filtered off. The filtrate was washed with 0.2 M aqueous NaOH (two times), water and brine, dried over MgSO4 and silicagel, filtered off. The filtrate was evaporated to give crude 6-bromo-3,3-bis(hydroxymethyl)spiro[chromene-2,1′-cyclobutan]-4(3H)-one (641 mg).

reactant | potassium tert-butoxide | 3.93 mmol, 441 mg | CC(C)([O-])C.[K+]
reactant | 6-bromospiro[chromene-2,1′-cyclobutan]-4(3H)-one | 1.87 mmol, 500 mg | BrC=1C=C2C(CC3(CCC3)OC2=CC1)=O | C12H11BrO2
reactant | 1H-benzotriazole-1-methanol | 3.93 mmol, 586 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-3,3-bis(hydroxymethyl)spiro[chromene-2,1′-cyclobutan]-4(3H)-one | 641 mg | BrC=1C=C2C(C(C3(CCC3)OC2=CC1)(CO)CO)=O | C14H15BrO4
